US09388173B2
Step 2: tert-butyl 3-((2-amino-5-bromophenyl)amino)azetidine-1-carboxylate
To a solution of crude tert-butyl 3-((5-bromo-2-nitrophenyl)amino)azetidine-1-carboxylate (550 mg, 1.5 mmol) in EtOH (10 mL) was added Fe powder (1.27 mg, 22.7 mmol) and NH4Cl (1.20 g, 0.227 mmol, in 10 ml water). After stirring for 4 h at refluxing temperature, the solution cooled and filtered through a Celite pad and the filtrate concentrated. The residue used directly for next step (400 mg, Yield 78%) without further purification. LCMS (m/z): 342.1 (M+1).

reactant | tert-butyl 3-((5-bromo-2-nitrophenyl)amino)azetidine-1-carboxylate | 1.5 mmol, 550 mg | BrC=1C=CC(=C(C1)NC1CN(C1)C(=O)OC(C)(C)C)[N+](=O)[O-] | C14H18BrN3O4
reactant | NH4Cl | 0.227 mmol, 10 ml, 1.20 g | [NH4+].[Cl-]
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Fe | 22.7 mmol, 1.27 mg | [Fe] | Fe
product | tert-butyl 3-((2-amino-5-bromophenyl)amino)azetidine-1-carboxylate | Yield 78% | NC1=C(C=C(C=C1)Br)NC1CN(C1)C(=O)OC(C)(C)C | C14H20BrN3O2
